US06140330
A solution of 1-benzyl-L-proline (50 g) in dichloromethane (300 ml) is cooled with ice. To the solution is added N-methylmorpholine (22.5 g), and then further thereto is added dropwise isobutyl chloroformate (30 g). The mixture is stirred at the same temperature for about one hour, and thereto is added dropwise pyrrolidine (18.8 ml) at the same temperature. The mixture is warmed to room temperature, and stirred for two days. The mixture is washed twice with water (250 ml), and dried over magnesium sulfate. The mixture is concentrated under reduced pressure, and the residue is recrystallized from ethyl acetate-n-hexane to give 2-(1-pyrrolidinyl)carbonyl-1-benzylpyrrolidine (31 g), as white powder.

reactant | 1-benzyl-L-proline | 50 g | C(C1=CC=CC=C1)N1[C@H](C(=O)O)CCC1 | C12H15NO2
reactant | N-methylmorpholine | 22.5 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 30 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | pyrrolidine | 18.8 ml | N1CCCC1 | C4H9N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 2-(1-pyrrolidinyl)carbonyl-1-benzylpyrrolidine | 31 g | N1(CCCC1)C(=O)C1N(CCC1)CC1=CC=CC=C1 | C16H22N2O
